US09145429B2
1a. 5-chloro-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(2-isopropoxyethoxy)nicotinonitrile D230
Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen were placed a solution of 5,6-dichloro-2-(2-isopropoxyethoxy)nicotinonitrile (1.13 g, 4.12 mmol, 1.00 equiv) in DMSO (80 mL), benzo[c][1,2]oxaborole-1,5(3H)-diol (650 mg, 4.33 mmol, 1.00 equiv) and Cs2CO3 (1.6 g, 4.91 mmol, 1.20 equiv). The resulting mixture was stirred for 2 h at 40° C., then quenched by the addition of 50 mL of water. The resulting solution was extracted with 3×30 mL of ethyl acetate. The organic layers were combined, washed with 2×50 mL of water, then dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 5-chloro-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(2-isopropoxyethoxy)nicotinonitrile (1.3 g, 80%) as a white solid. LC-MS (ES, m/z): 389 [M+H]+. 1H-NMR (300 MHz, DMSO-d6) δ (ppm) 9.260 (1H, s), 8.596 (1H, s), 7.817-7.791 (1H, d, J=7.8 Hz), 7.337 (1H, s), 7.268-7.235 (1H, m), 5.007 (2H, s), 4.105-4.072 (2H, t), 3.495-3.435 (2H, m), 3.415-3.395 (1H, t), 1.016-0.995 (6H, d, J=6.3 Hz).

reactant | 5,6-dichloro-2-(2-isopropoxyethoxy)nicotinonitrile | 4.12 mmol, 1.13 g, 1.00 equiv | ClC=1C(=NC(=C(C#N)C1)OCCOC(C)C)Cl | C11H12Cl2N2O2
reactant | benzo[c][1,2]oxaborole-1,5(3H)-diol | 4.33 mmol, 650 mg, 1.00 equiv | B1(OCC2=C1C=CC(=C2)O)O | C7H7BO3
reactant | Cs2CO3 | 4.91 mmol, 1.6 g, 1.20 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
product | 5-chloro-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(2-isopropoxyethoxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OCCOC(C)C)OC1=CC2=C(B(OC2)O)C=C1 | C18H18BClN2O5
